US04634783
To a solution of 1.5 g of 6-amidino-2-naphthyl 1-benzyloxycarbonylpyrrolidine-2-carboxylate methanesulfonate in 10 ml of acetic acid, was added 1 ml of anisole. To the mixture, while cooling in ice and stirring, was added 3 ml of a 30% HBr/acetic acid solution. Thereafter the resulting mixture was stirred overnight at room temperature. The precipitate was collected by filtration and washed sufficiently with ethyl ether and acetone. Recrystallization from a mixture of methanol and ethyl ether gave 1.1 g of 6-amidino-2-naphthyl pyrrolidine-2-carboxylate dihydrobromide.

reactant | 6-amidino-2-naphthyl 1-benzyloxycarbonylpyrrolidine-2-carboxylate methanesulfonate | 1.5 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | HBr acetic acid | Br.C(C)(=O)O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-amidino-2-naphthyl pyrrolidine-2-carboxylate dihydrobromide | 1.1 g | Br.Br.N1C(CCC1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C16H17N3O2.2BrH/c17-15(18)12-4-3-11-9-13(6-5-10(11)8-12)21-16(20)14-2-1-7-19-14;;/h3-6,8-9,14,19H,1-2,7H2,(H3,17,18);2*1H
